US06552021B2
A solution of 4-nitroindazole (prepared according to the literature procedures Davies, R. R. J.C.S., 1955, 2412-2423; Porter, H. D. Org. Synth. Collect. Vol I, 20, 73-74.) (2.01 g, 12.3 mmol) was added slowly to a cold (ice/water), stirred suspension of NaH (440 mg, 18.4 mmol) in DMF (20 mL) under N2. The mixture was stirred for 30 min, and a solution of MeI (1.91 g, 13.5 mmol) in DMF (10 mL) was then added. Workup gave 1-methyl-4-nitroindazole (1.79 g, 82%); mp (EtOAc/petroleum ether) 138-139° C. Hydrogenation of this (6.70 g, 37.9 mmol) in absolute EtOH (300 mL) in the presence of Pd/C (1.00 g) gave 4-amino-1-methylindazole (4.23 g, 76%). A mixture of 4-amino-1-methylindazole (4.10 g, 27.9 mmol) and 2-bromo-3-nitrobenzoic acid (6.86 g, 27.9 mmol) were then reacted in a mixture of isopropanol/N-methylmorpholine in the presence of copper powder and CuI as above, giving 2-[(1-methyl-1H-indazol-4-yl)amino]-3-nitrobenzoic acid (439 mg, 5 %); mp (EtOAc/n-hexane) 257-260° C.; Reductive cyclisation of 2-[(1-methyl-1H-indazol-4-yl)amino]-3-nitrobenzoic acid with NaBH4 in 2 M NaOH as above gave 3-methyl-3H-pyrazolo[4,3-a]phenazine-10-carboxylic acid as a dark yellow solid (54%); mp (acetone) 320-323° C. [(CD3)2SO] δ 4.28 (s, 3 H, NCH3), 8.07 (t, J=7.9 Hz, 1 H, H-8), 8.10 (d, J=9.6 Hz 1H, H-4 or H-5), 8.39 (d, J=9.6 Hz 1H, H-4 or H-5), 8.52-8.60 (m, 2H, H-7 and H-9), 8.76 (s, 1 H, H-2), 14.90 (br s, 1 H, COOH).

reactant | 4-amino-1-methylindazole | 27.9 mmol, 4.10 g | NC1=C2C=NN(C2=CC=C1)C | C8H9N3
reactant | 2-bromo-3-nitrobenzoic acid | 27.9 mmol, 6.86 g | BrC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4BrNO4
solvent | isopropanol N-methylmorpholine | C(C)(C)O.CN1CCOCC1
catalyst | copper | [Cu] | Cu
catalyst | CuI | [Cu]I
product | 2-[(1-methyl-1H-indazol-4-yl)amino]-3-nitrobenzoic acid | 439 mg, 5 % | CN1N=CC2=C(C=CC=C12)NC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C15H12N4O4
